Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___
 
Chief Complaint:
Acute arm, neck, and chest pain
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy

 
History of Present Illness:
___ year old female with history of HCV genotype 1a, cirrhosis 
with history of ascites, alcohol abuse, depression, CAD, 
hypertension, and hyperlipidemia presenting with weakness, chest 
pain, and anemia with bright red blood per rectum.

In the ED, initial VS were 98.5 85 168/90 18 100% RA.  
Exam notable for   
Labs notable for WBC 5.5, H/H 8.2/27.8 from baseline 11.3/35.0, 
plt 72, troponin negative x 2, negative D-dimer, ALT/AST 51/75, 
AP 151, tbili 0.7, lipase 52, and lactate 3.1, INR 1.3
UA WNL  
CXR demonstrated no acute intrathoracic processes  
Received Oxycodone and Tylenol   
Transfer VS were 98.1 92 150/57 20 100% RA    
Decision was made to admit to medicine for further management.  
On arrival to the floor, patient reports...  

The patient states that she was standing in her kitchen and her 
arms hurt and then her legs gave out. She says she "blanked for 
a moment" and partially remembers falling down. She then felt a 
stabbing chest pain that did not improve with sl nitro. She has 
had the chest pain for several days and the pain in her arms for 
several weeks. She has chronic ___ neuropathy and her leg pain 
prevents her from walking more than 10 ft. 

She also has had neck stiffness for the past several days and 
chronic photosensitivity for the past year that is not currently 
worsened. She also endorses a HA that is bilateral and very 
painful. She endorses palpitations and dizziness as well as 
lightheadedness. She also states that her hips lock up, such 
that she was not able to sit on the toilet yesterday and 
urinated on herself. 

The patient also notes that she has had red stools for the past 
week (the actual color of the stools) with minimal other blood. 
Had a lot of blood x 2 2 days ago. Blood is always bright red. 
She has noted pain with defecation and blood with wiping. She 
also endorses AM and ___ nausea, and last vomited 5 days ago. 

She also endorses ___ years of short-term memory loss where she 
can't remember activities she's doing (ie cooking). 

She also complains of SOB and an partially-productive cough for 
the last ___ mo. 

REVIEW OF SYSTEMS:  
Negative except as noted in HPI. 

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
COPD
Depression
Hypertension
Hyperlipidemia
Alcohol abuse
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy

 
Social History:
___
Family History:
 Mom had DM, CAD, and was in a wheelchair for neuropathy 
(deceased). Father had alcoholism and rectal CA. Sister has 
mental illness, also hx of falls. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 98.3 152/62 75 18 99%RA 
GENERAL: Overweight, NAD 
HEENT: AT/NC, EOMI, anicteric sclera,  MMM, OP clear. Head 
tender to palp diffusely. 
NECK: supple neck, no LAD, tender to palp bilaterally.  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
CHEST: Tender to palpation diffusely. 
LUNG: Crackles in Lower Lobes b/l. Breathing comfortably without 
use of accessory muscles.  
BACK: Diffusely tender to spine, paraspine, sacrum, and CVA 
palpation. 
ABDOMEN: mild distended, soft, diffusely tender especially in 
the RUQ. + Rebound, no guarding.   
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Onychomycosis of toes. Warm.  
NEURO: Face symmetric. EOMI. Tremor of R>>L hand, no asterixis. 
Motor: ___ shoulder shrug b/l, ___ elbow 
flexion, ___ hand strength, slowed rapid-alternating-movements. 
Finger-to-nose minimally impaired. ___ R leg flexion, ___ L leg 
flexion, back and leg pain ipsilaterally with leg raise b/l, ___ 
ankle flexion. Decreased fine touch sensation of distal lower 
extremities b/l. 
RECTAL: No blood in vault. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISHCARGE EXAM: 
VS 98.4-99.1 98-105/36-60 ___ 18 94-96%RA
Wt: 62.1 <- 61.8 <- 60.1 <- 60.4 <- 59.3 <- 60.7 <- 59.9 <- 53.8
GENERAL: Overweight, appears uncomfortable 
HEENT: AT/NC, anicteric sclera,  supple neck 
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
CHEST: Notably tender to palpation diffusely. 
LUNG: Coarse breath sounds at bases
ABDOMEN: moderately distended, soft, notably tender in RUQ and 
LLQ. no guarding.   
EXTREMITIES: moving all 4 extremities with purpose. No ___ edema. 
R hand tremor, no asterixis. 
NEURO: Face symmetric. A&Ox3.   
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
ADMISSION LABS:
___ 10:20AM BLOOD WBC-5.5 RBC-3.48* Hgb-8.2*# Hct-27.8*# 
MCV-80*# MCH-23.6*# MCHC-29.5* RDW-19.5* RDWSD-55.5* Plt Ct-72*
___ 10:20AM BLOOD Neuts-71.4* Lymphs-17.3* Monos-10.0 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-3.93 AbsLymp-0.95* 
AbsMono-0.55 AbsEos-0.04 AbsBaso-0.02
___ 10:20AM BLOOD ___ PTT-35.6 ___
___ 09:22PM BLOOD Ret Aut-2.5* Abs Ret-0.08
___ 10:20AM BLOOD Glucose-167* UreaN-14 Creat-0.8 Na-139 
K-3.6 Cl-102 HCO3-22 AnGap-19
___ 10:20AM BLOOD ALT-51* AST-75* AlkPhos-151* TotBili-0.7
___ 10:20AM BLOOD Lipase-52
___ 10:20AM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD cTropnT-<0.01
___ 10:20AM BLOOD Albumin-4.0 Calcium-9.2 Phos-3.4 Mg-1.8
___ 10:20AM BLOOD D-Dimer-<150
___ 09:22PM BLOOD calTIBC-451 ___ Ferritn-15 TRF-347
___ 10:32AM BLOOD Lactate-3.1*

DISCHARGE LABS:
___ 05:54AM BLOOD WBC-5.3 RBC-3.27* Hgb-8.2* Hct-27.1* 
MCV-83 MCH-25.1* MCHC-30.3* RDW-19.4* RDWSD-57.6* Plt Ct-91*
___ 06:05AM BLOOD ___ PTT-35.7 ___
___ 05:54AM BLOOD Glucose-78 UreaN-9 Creat-0.9 Na-133 K-4.6 
Cl-98 HCO3-24 AnGap-16
___ 06:25AM BLOOD ALT-62* AST-99* LD(___)-199 AlkPhos-158* 
TotBili-0.8
___ 03:37PM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:54AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:54AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.0
___ 06:40AM BLOOD AFP-8.2
___ 09:12AM BLOOD Lactate-1.2

IMAGING:
Colonoscopy ___:
Impression: Diverticulosis of the sigmoid colon
Exam limited by poor prep proximally, but no bleeding or source 
of bleeding was identified. Otherwise normal colonoscopy to 
cecum

EGD ___:
Varices at the distal esophagus
Congestion, mosaic appearance and erythema in the stomach 
compatible with portal hypertensive gastropathy 
Erythema in the duodenum compatible with duodenitis
Nissen wrap seen
Otherwise normal EGD to third part of the duodenum

Liver US: ___: 
IMPRESSION:
1. Cirrhotic liver.  Questionable 0.7 cm lesion within the right 
hepatic lobe only seen in a single image.  This may be secondary 
to artifact.  If there is no elevation of AFP, then suggest that 
MRI be performed as the next screening study.  However, if there 
is elevated AFP then consider obtaining MRI earlier for further 
characterization.
2. Splenomegaly measuring 14.2 cm.
RECOMMENDATION(S):  If there is no elevation of AFP, then 
suggest that MRI be performed as the next screening study in 6 
months.  However, if there is elevated AFP then consider 
obtaining MRI earlier for further characterization.

CXR ___
IMPRESSION:    
No acute intrathoracic findings. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of HCV genotype 
1a, cirrhosis with history of ascites, alcohol abuse, 
depression, CAD, hypertension, and hyperlipidemia who presented 
with weakness and musculoskeletal chest pain.

#Anemia: Pt notes BRBPR. Lower GI bleed vs hemorrhoids. Upper 
endoscopy showed no active bleeds but having blood in stool. 
Colonoscopy showed no site of bleeding. Her hemoglobin was 
stable s/p 1U PRBC on ___. Her home ASA was held given her 
bleeding. 

#Acute urinary retention: The patient developed acute urinary 
retention of unclear etiology, possibly secondary to 
medications. Her loratadine was discontinued and narcotics were 
avoided. She was acutely managed with a foley and succeeded with 
her voiding trial ___.

#Chest pain: Pt has been having persistent intermittent chest 
pain with MSK component. Her chest has been stably tender to 
palpation. However, her EKG ___ showed nonspecific j-point 
elevation different from baseline 1 week ago. Chest pain 
resolved after taking her home inhaler and troponins were 
negative.

#Thrombocytopenia: Likely ___ liver disease. She was given 
vitamin K. 

#Cirrhosis: Patient has a history of cirrhosis from HCV and EtOH 
abuse. She had no ascites on ultrasound. Her AFP was within 
normal limits. She should have an MRI as next screening 
modality. Etoh abstinence was encourage. Hepatology was 
consulted.

#Generalized pain: Unclear etiology. No clear neurophysiologic 
cause. Troponins were negative & pain was reproducible with 
palpation. Opioids were avoided. 

#COPD: Pt has nonproductive cough. Minimal SOB. No fevers. Home 
meds were continued. 

#HTN: home meds were held

#Generalize weakness: Unclear etiology, not consistent with 
radiculopathy. 

#Peripheral neuropathy: Pt has minimal feeling in feet, 
neuropathic pain, and pain limiting her walking. She was started 
on gabapentin 300 BID, which was titrated to 400 BID. In 
addition, she was started on tramadol PRN. 

#GERD: s/p lap fundoplication and hiatal hernia repair ___. She 
was not complaining of symptoms. 

CODE: Full (confirmed) 
EMERGENCY CONTACT HCP: ___ (boyfriend) ___

====================================================
TRANISTIONAL ISSUES:
[] Pt's home Lasix was held after she developed hyponatremia and 
___
[] Pt's home nadolol was stopped per hepatology recommendations
[] Pt's home ASA was held at discharge given thrombocytopenia 
and bleeding
[] Loratadine was held given concern for urinary retention. 
[] Pt will follow up with hepatology and PCP after discharge
[] Pt was screened by ___ who suggested rehab however pt refused 
and was discharged with skilled nursing, home health aid, and 
___
[] Pt was discharged home with a walker per ___ recommendations
[] Pt's RUQ ultrasound demonstrated a questionable 0.7 cm lesion 
within the right hepatic lobe only seen in a single image, which 
may have been an artifact. AFP was not elevated. Radiology 
recommends MRI for next ___ screening imaging. 
[] Pt started on gabapentin for neuropathic pain
[] Per ___ recs, pt discharged home with walker, SN, ___, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY:PRN Allergies 
2. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg (1,500 
mg)-800 unit oral BID 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Valsartan 320 mg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
8. Albuterol Inhaler 2 PUFF IH Q4H:PRN Wheezing 
9. Aspirin 81 mg PO DAILY 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN Wheezing 
11. Fluticasone Propionate NASAL 1 SPRY NU BID 
12. Furosemide 20 mg PO DAILY 
13. Simvastatin 20 mg PO QPM 
14. HydrOXYzine 25 mg PO BID:PRN Itch 
15. Docusate Sodium 100 mg PO BID 
16. Nadolol 20 mg PO DAILY 

 
Discharge Medications:
1. Equipment
Rolling walker

ICD 9 781.2
Good prognosis
Needs for 13 months
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN Wheezing 
3. Docusate Sodium 100 mg PO BID 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. Pantoprazole 40 mg PO Q12H 
7. Tiotropium Bromide 1 CAP IH DAILY 
8. Valsartan 320 mg PO DAILY 
9. Simvastatin 20 mg PO QPM 
10. Loratadine 10 mg PO DAILY:PRN Allergies 
11. HydrOXYzine 25 mg PO BID:PRN Itch 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN Wheezing 
15. Gabapentin 400 mg PO BID 
RX *gabapentin 400 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
16. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*56 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lower GI Bleed
HCV and alcoholic Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___ for your anemia. You anemia was primarily 
due to bleeding in your GI tract. However, neither endoscopy nor 
colonoscopy revealed a site of bleeding. You were treated with a 
blood transfusion and your blood levels remained stable 
afterward. 

You also had an ultrasound of your liver that showed progression 
of cirrhosis. Please abstain from using alcohol and follow up 
with your outpatient appointments. 

You also developed an inability to urinate due to an inability 
to void your bladder. You were treated with a short-term foley 
catheter and your symptoms then resolved.  

You also had some chest pain during your stay. Our tests 
indicated it was unlikely to be due to your heart. Please 
continue to take your inhalers as prescribed. 

Please call your physician if you notice more blood in your 
stools and come to the emergency room if you experience acute 
worsening of shortness of breath or dizziness.

Best wishes,

Your ___ team
 
Followup Instructions:
___